US08404677B2
2-((1R,2R)-2-amino cyclohexylamino)-4-(3,5-bis(trifluoromethyl)phenylamino)pyrido[4,3-d]pyrimidin-5(6H)-one
The title compound was prepared as described in Example 1g by starting from 4-(3,5-bis(trifluoromethyl)phenylamino)-2-(methylthio)pyrido[4,3-d]pyrimidin-5(6H)-one (100 mg, 0.24 mmol) and (±)-trans-1,2-diamino cyclohexane and continuing until the reaction yielded the title compound, 2-((1R,2R)-2-aminocyclohexylamino)-4-(3,5-bis(trifluoromethyl)phenylamino)pyrido[4,3-d]pyrimidin-5(6H)-one. MS m/z: 487 (M+1)+ 1H NMR (300 MHz, DMSO-d6) δ ppm 1.25-1.97 (m, 10H), 6.10 (d, J=7.2 Hz, 1H), 7.41-7.44 (m, 3H), 7.41-7.76 (m, 4H), 8.47 (s, 2H), 12.49 (s, 1H).

reactant | 4-(3,5-bis(trifluoromethyl)phenylamino)-2-(methylthio)pyrido[4,3-d]pyrimidin-5(6H)-one | 0.24 mmol, 100 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)NC=1C2=C(N=C(N1)SC)C=CNC2=O)(F)F | C16H10F6N4OS
reactant | (±)-trans-1,2-diamino cyclohexane | N[C@H]1[C@@H](CCCC1)N | C6H14N2
product | 2-((1R,2R)-2-aminocyclohexylamino)-4-(3,5-bis(trifluoromethyl)phenylamino)pyrido[4,3-d]pyrimidin-5(6H)-one | N[C@H]1[C@@H](CCCC1)NC=1N=C(C2=C(N1)C=CNC2=O)NC2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F | C21H20F6N6O
